US06949579B2
Ethyl (2E) 4-[(6-chloro-1H-indazol-3-yl)amino]-4-oxo-2-butenoate
865 mg of monoethyl fumarate are added to 1 g of 6-chloro-1H-indazole-3-amine in 50 cm3 of dichloromethane. 1.4 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride are then introduced and the mixture is stirred for 30 minutes at about 20° C. The resulting mixture is washed with 50 cm3 of distilled water and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and then evaporated under reduced pressure (2 kPa; 40° C.). 2 g of a brick-coloured gummy mass are obtained, and are purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume) and collecting 40 cm3 fractions. The fractions containing the expected product are combined and then evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. After drying (90 Pa; 45° C.), 900 mg of ethyl 4-[(6-chloro-1H-indazol-3-yl)amino]-4-oxo-2-butenoate, (E form), melting at 220° C., are obtained.

reactant | monoethyl fumarate | 865 mg | C(\C=C\C(=O)[O-])(=O)OCC
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.4 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | Ethyl (2E) 4-[(6-chloro-1H-indazol-3-yl)amino]-4-oxo-2-butenoate | ClC1=CC=C2C(=NNC2=C1)NC(/C=C/C(=O)OCC)=O | C13H12ClN3O3
